### PR TITLE
feat: add composition and differentiation of formal power series

### PR DESCRIPTION
**Pull request by rmhi**
feat: add composition and differentiation of formal power series (RingTheory/PowerSeries)

---

For a commutative semiring R, define a composition operation R[[X]] \to R[[X]] \to R[[X]],
and a differentiation map R[[X]] \to R[[X]].
Prove standard properties, such as the chain rule.
Prove that an element of R[[X]] is a unit iff its constant term is a unit.
Prove that exp (log (1+X)) = 1+X (as formal power series, using the chain rule), and some other similar identities.

Motivation: Currently, to prove that two power series are equal, one needs to check that they have the same coefficients.
This can be complicated, since the formulae for the coefficients of power series can get messy.
The PR gives another method for proving power series identities, by checking that they have the sam constant terms and the same derivative. As an exampe, one can immediately prove that exp(-(r+s)X)*exp(rX)*exp(sX) without using the binomial theorem; similarly one can easily prove that exp(log(1+X))=1+X, which would be quite messy to prove coefficient-by-coefficient.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 1]
```diff
@@ -2680,3 +2680,143 @@ theorem algebraMap_apply'' :
...
+  rw [coeff_trunc, coeff_trunc]
+  split_ifs with h
+  · rw [coeff_mul, coeff_mul, sum_congr rfl]
+    intro _ hab
+    have ha := lt_of_le_of_lt (antidiagonal.fst_le hab) h
+    rw [Polynomial.coeff_coe, coeff_trunc, if_pos ha]
+  · rfl
+
+@[simp] theorem trunc_mul_trunc {n} (f g : R ⟦X⟧) :
+  trunc n ( f * (trunc n g) : R⟦X⟧ ) = trunc n ( f * g ) := by
```
Comment (kbuzzard) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2725]:
```suggestion
    trunc n ( f * (trunc n g) : R⟦X⟧ ) = trunc n ( f * g ) := by
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 2]
```diff
@@ -2680,3 +2680,143 @@ theorem algebraMap_apply'' :
...
+  | succ a ih =>
+    rw [pow_succ, pow_succ, trunc_trunc_mul, ←trunc_trunc_mul_trunc, ih, trunc_trunc_mul_trunc]
+
+theorem trunc_coe_eq_self {n} {f : R[X]} (hn : natDegree f < n) : trunc n (f : R⟦X⟧) = f := by
+  have this : support f ⊆ Ico 0 n
+  · calc
+      support f
+        ⊆ range (f.natDegree + 1)  := supp_subset_range_natDegree_succ
+      _ ⊆ range n                  := Iff.mpr range_subset hn
+      _ = Ico 0 n                  := by rw [range_eq_Ico]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2746]:
```suggestion
      support f ⊆ range (f.natDegree + 1) := supp_subset_range_natDegree_succ
      _         ⊆ range n                 := Iff.mpr range_subset hn
      _         = Ico 0 n                 := by rw [range_eq_Ico]
```
I *think* that's the preferred way to set calc blocks out

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 3]
```diff
@@ -2680,3 +2680,143 @@ theorem algebraMap_apply'' :
...
+    apply monomial_zero_right
+
+theorem trunc_succ (f : R⟦X⟧) (n : ℕ) :
+    trunc n.succ f = trunc n f + Polynomial.monomial n (coeff R n f) := by
+  rw [trunc, Ico_zero_eq_range, sum_range_succ, trunc, Ico_zero_eq_range]
+
+
+/-- The function `coeff n : R⟦X⟧ → R` is continuous. I.e. `coeff n f` depends only on a sufficiently
+long truncation of the power series `f`.-/
+theorem coeff_stable {n m} {f : R⟦X⟧} (h : n.succ ≤ m := by rfl) :
```
Comment (kbuzzard) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2761]: I'm not clear that `n.succ <= m := by rfl` is the best idea. Sure it makes your next proof a bit simpler, but in practice users will probably have hypotheses of the form `n < m` I would have thought.

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 4]
```diff
@@ -2680,3 +2680,143 @@ theorem algebraMap_apply'' :
...
+  symm
+  rw [←succ_le] at ha hb
+  rw [coeff_stable, ←trunc_trunc_mul_trunc, trunc_trunc_of_le f ha,
+    trunc_trunc_of_le g hb, trunc_trunc_mul_trunc, ←coeff_stable]
+
+
+theorem coeff_mul_stable {d n} (f g) (h : d.succ ≤ n := by rfl) :
+    coeff R d (f * g) = coeff R d (trunc n f * trunc n g) :=
+  coeff_mul_stable₂ f g h h
+
```
Comment (kbuzzard) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2778]:
```suggestion
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 5]
```diff
@@ -2680,3 +2680,143 @@ theorem algebraMap_apply'' :
...
+theorem natDegree_trunc_lt (f : R⟦X⟧) (n) : (trunc (n + 1) f).natDegree < n + 1 := by
+  rw [lt_succ_iff, natDegree_le_iff_coeff_eq_zero]
+  intros
+  rw [coeff_trunc]
+  split_ifs with h
+  · rw [lt_succ, ←not_lt] at h
+    contradiction
+  · rfl
+
```
Comment (kbuzzard) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2788]:
```suggestion
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 6]
```diff
@@ -2680,3 +2680,143 @@ theorem algebraMap_apply'' :
...
+    rw [trunc_zero', range_zero, sum_empty, eval₂_zero]
+  | succ n =>
+    have := natDegree_trunc_lt f n
+    rw [eval₂_eq_sum_range' (hn := this)]
+    apply sum_congr rfl
+    intro _ h
+    rw [mem_range] at h
+    congr
+    rw [coeff_trunc, if_pos h]
+
```
Comment (kbuzzard) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2805]:
```suggestion
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 3 above)
Comment (rmhi) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:2754]: I agree. Thanks.

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 7]
```diff
@@ -2680,3 +2680,143 @@ theorem algebraMap_apply'' :
 #align power_series.algebra_map_apply'' PowerSeries.algebraMap_apply''
 
 end PowerSeries
+
+
+
+
```
[the remark this answers is not in the document]
Comment (rmhi) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: Thanks. I'll use your first idea. Most of the lemmas can't move much higher up the file, because they involve coercions from R[X] to R[[X]]; this also imposes the restriction that R is commutative. However it looks as though some of them could be moved to the previous `section Trunc`, and stated in more generality. Where possible, I'll do this.
